US05525632
Step 1: Preparation of (Z)-1-(3-nitro-4-chlorophenyl)-2-(3,4,5-trimethoxyphenyl) ethene
1.0 g of 3-nitro-4-chlorobenzaldehyde and 2.8 g of 3,4,5-trimethoxybenzyltriphenylphosphine bromide were dissolved in 50 ml of benzene, and a benzene solution containing 260 mg of sodium hydride dispersed therein was added thereto and reacted for 15 hours at room temperature. The reaction liquid was neutralized with acetic acid, saturated sodium chloride solution was added thereto, and the resulting liquid was extracted with dichloromethane. The extract was dried with anhydrous sodium sulfate, concentrated and then purified by silica gel column chromatography diethyl (ether:hexane--1:2 by volume) to obtain 0.95 g of the intended compound. The yield of the product was 50.4%.

reactant | 3-nitro-4-chlorobenzaldehyde | 1.0 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1Cl | C7H4ClNO3
reactant | 3,4,5-trimethoxybenzyltriphenylphosphine bromide | 2.8 g | [Br-].COC=1C=C(CP(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C1OC)OC
reactant | sodium hydride | 260 mg | [H-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (Z)-1-(3-nitro-4-chlorophenyl)-2-(3,4,5-trimethoxyphenyl) ethene | 0.95 g | [N+](=O)([O-])C=1C=C(C=CC1Cl)\C=C/C1=CC(=C(C(=C1)OC)OC)OC | C17H16ClNO5
